US06100254
4-(3-Benzoyl-2-fluorenylmethoxycarbonylamino-phenoxymethyl) phenoxyacetic acid allyl ester.
4-(2-Amino-3-benzoylphenoxymethyl)-phenoxyacetic acid allyl ester (9.03 g, 20.8 mmol) and freshly distilled pyridine (1.97 g, 25.0 mmol, 1.2 equiv) were dissolved in 100 mL of CH2Cl2. The resulting yellow solution was cooled to 0° C., and fluorenylmethoxycarbonyl chloride (4.83 g, 21.8 mmol, 1.05 equiv) was added. The resulting solution was stirred at 0° C. for 15 min and then at ambient temperature for 1 h. The solution was diluted with CH2Cl2 (150 mL), extracted twice with 1 N aqueous sodium bisulfate (100 mL), once with dilute aqueous sodium chloride (100 mL), and then concentrated to give a yellow foam. Silica gel chromatography with CH2Cl2 afforded 8.68 g (65% yield) of purified material as a white solid that was homogeneous by 1H NMR. The carboxylic acid (3-[3-Benzoyl-2-fluorenylmethoxycarbonylaminobenzoyloxymethyl]-phenoxyacetic acid) was full characterized after removal of the allyl ester.

reactant | 4-(2-Amino-3-benzoylphenoxymethyl)-phenoxyacetic acid allyl ester | 20.8 mmol, 9.03 g | C(C=C)OC(COC1=CC=C(C=C1)COC1=C(C(=CC=C1)C(C1=CC=CC=C1)=O)N)=O | C25H23NO5
reactant | pyridine | 25.0 mmol, 1.97 g, 1.2 equiv | N1=CC=CC=C1 | C5H5N
reactant | fluorenylmethoxycarbonyl chloride | 21.8 mmol, 4.83 g, 1.05 equiv | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)Cl | C15H11ClO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Benzoyl-2-fluorenylmethoxycarbonylamino-phenoxymethyl) phenoxyacetic acid allyl ester | 8.68 g, 65% yield | C(C=C)OC(COC1=CC=C(C=C1)COC1=C(C(=CC=C1)C(C1=CC=CC=C1)=O)NC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)=O | C40H33NO7
